US04963590
3-(3,4-Dihydroxy-5-trifluoromethylbenzylidene)-2,4-pentanedione
The procedure described in Example 7 was repeated using 2.06 g of 3,4-dihydroxy-5-trifluoromethyl-benzaldehyde and 1.00 g of 2,4-pentanedione. Yield 1.39 g (45%), m.p. 198°-205° C.

reactant | 3,4-dihydroxy-5-trifluoromethyl-benzaldehyde | 2.06 g | OC=1C=C(C=O)C=C(C1O)C(F)(F)F | C8H5F3O3
reactant | 2,4-pentanedione | 1.00 g | CC(CC(C)=O)=O | C5H8O2
product | 3-(3,4-Dihydroxy-5-trifluoromethylbenzylidene)-2,4-pentanedione | OC=1C=C(C=C(C(C)=O)C(C)=O)C=C(C1O)C(F)(F)F | C13H11F3O4
